US07345180B2
5-Methyl-2,3-dihydro-1H-isoindole
The 4-methylphthalimide (1.8 g) obtained above was suspended in tetrahydrofuran (3 ml), then 1 N borane tetrahydrofuran complex (30 ml) was added thereto at room temperature and stirred overnight at 60° C. The mixture was cooled to 0° C., then methanol (2.8 ml) and 6 N hydrochloric acid (3.2 ml) were added thereto, and the mixture was refluxed for 1 hour. The reaction mixture was cooled to 0° C., then 6 N sodium hydroxide solution was added thereto, and the reaction solution was extracted with ethyl acetate and then the extract was dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure, and the residue was purified by column chromatography (eluting solvent; dichloromethane→dichloromethane:methanol 10:1→5:1) to give the title compound (400 mg, Y.:27%).

reactant | 4-methylphthalimide | 1.8 g | CC=1C=C2C(C(=O)NC2=O)=CC1 | C9H7NO2
reactant | methanol | 2.8 ml | CO | CH4O
reactant | hydrochloric acid | 6 N, 3.2 ml | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-Methyl-2,3-dihydro-1H-isoindole | 400 mg, 27% | CC=1C=C2CNCC2=CC1 | C9H11N
